US09388173B2
Step 2: 3-(quinolin-8-yl)phenol
To a solution of 8-(3-methoxyphenyl)quinoline (900 mg, 3.83 mmol) in CH2Cl2 (50 ml) was added BBr3 (2.4 g, 14 mmol) at 0° C. The mixture was stirred for 2 h at 0° C. then until the reaction was completed. The mixture was added drop wise to iced water (50 mL), and then extracted with CH2Cl2 (2×20 mL). The organic layer was washed with brine (30 mL), dried over Na2SO4 and concentrated to give a yellow solid which was used in next step without further purification. (720 mg, Yield 85%). LCMS (m/z): 222.1 (M+1).

reactant | 8-(3-methoxyphenyl)quinoline | 3.83 mmol, 900 mg | COC=1C=C(C=CC1)C=1C=CC=C2C=CC=NC12 | C16H13NO
reactant | BBr3 | 14 mmol, 2.4 g | B(Br)(Br)Br | BBr3
reactant | water | 50 mL | O | H2O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(quinolin-8-yl)phenol | Yield 85% | N1=CC=CC2=CC=CC(=C12)C=1C=C(C=CC1)O | C15H11NO
